US06169090A
2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (5-cyanopyrimidin-4-yl)amide
Starting from 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (200 mg) and 4-aminopyrimidine-5-carbonitrile (84 mg). Purification by trituration with ethyl acetate and methanol gave the title compound (110 mg) as an off white solid.

reactant | 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H14N2O6
reactant | 4-aminopyrimidine-5-carbonitrile | 84 mg | NC1=NC=NC=C1C#N | C5H4N4
product | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (5-cyanopyrimidin-4-yl)amide | 110 mg | C(#N)C=1C(=NC=NC1)NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C16H13N5O3
